US04524146
A solution of 2.0 of ethyl 4-chloro-6-fluoroquinolin-3-carboxylate and 0.95 g of 2-hydrazinopyrimidine in 40 ml of 95% ethanol is heated under reflux for 16 hours. The reaction mixture is filtered and the resulting solid is taken up in 20 ml of N sodium hydroxide and sufficient water to effect solution. Ammonium chloride (10.7 g) is added, the resulting precipitate is collected, washed with water and dried to yield 8-fluoro-2-(2-pyrimidyl)-pyrazolo[4,3-c]quinolin-3(5H)-one, as a hydrate, m.p. above 350°; IR (KBr) 800, 829, 870, 880 cm-1.

reactant | ethyl 4-chloro-6-fluoroquinolin-3-carboxylate | ClC1=C(C=NC2=CC=C(C=C12)F)C(=O)OCC | C12H9ClFNO2
reactant | 2-hydrazinopyrimidine | 0.95 g | N(N)C1=NC=CC=N1 | C4H6N4
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 8-fluoro-2-(2-pyrimidyl)-pyrazolo[4,3-c]quinolin-3(5H)-one | FC1=CC=2C=3C(=CNC2C=C1)C(N(N3)C3=NC=CC=N3)=O | C14H8FN5O
